US08809369B2
To a stirred mixture solution of 4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester (1.7 g, 4.5 mmol) in methanol (20 mL) and tetrahydrofuran (40 mL) was added 30% sodium hydroxide in water (20 mL). The reaction mixture was stirred at 60° C. for 16 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (1.4 g, 99%) as a light white solid which was used for next step without further purification: MS (ESI) M+1=351.0.

reactant | 4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester | 4.5 mmol, 1.7 g | COC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)N1CCCC1)(C)C | C23H28N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 1.4 g, 99% | CC1(CC(NC2=CC=C(C=C12)C(=O)O)C1=CC(=CC=C1)N1CCCC1)C | C22H26N2O2
